US05563151
Methyl 4-(2-(3-pyridyl)ethyl)benzoate was dissolved in methanol (10 ml) and a solution of potassium hydroxide (2.1 g, 37.3 mmol) in water (2 ml) added. The mixture was stirred overnight and the pH lowered to ca. 7 by the cautious addition of concentrated hydrochloric acid. Methanol (20 ml) was added and the suspension filtered, the filtrate concentrated to give an oil to which 2M HCl was added to bring the pH to 8. A solid precipitate formed, the solvent was removed under reduced pressure and the residue azeotroped with toluene (1×100 ml, 1×50 ml) to give crude 4-(2-(3-pyridyl)ethyl)benzoic acid. Thionyl chloride (10 ml) and dry DMF (100 μl) were added to the crude 4-(2-(3-pyridyl)ethyl)benzoic acid and the mixture heated under gentle reflux for 1.5 h. The excess thionyl chloride was removed under reduced pressure and the residue azeotroped with toluene (×2) to give crude 4-(2-(3-pyridyl)ethyl)benzoyl chloride hydrochloride as a solid. DCM (20 ml) was added and the resultant suspension treated with L-leucine ethyl ester hydrochloride (733 mg, 3.73 mmol), triethylamine (5.2 ml, 37.3 mmol) and DMAP (30 mg). The mixture was stirred for 1 h at room temperature, diluted with DCM (50 ml) and the solution washed with water (2×20 ml) and saturated brine (20 ml). The combined organics were dried over anhydrous magnesium sulphate, filtered and evaporated to give a yellow oil. Column chromatography (silica: 4% methanol in DCM) gave N-4-(2-(3-pyridyl)ethyl)benzoyl-L-leucine ethyl ester (378 mg, 28%) as a yellow solid.

reactant | Thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(2-(3-pyridyl)ethyl)benzoic acid | N1=CC(=CC=C1)CCC1=CC=C(C(=O)O)C=C1 | C14H13NO2
solvent | DMF | 100 μl | CN(C)C=O | C3H7NO
product | 4-(2-(3-pyridyl)ethyl)benzoyl chloride hydrochloride | Cl.N1=CC(=CC=C1)CCC1=CC=C(C(=O)Cl)C=C1 | InChI=1S/C14H12ClNO.ClH/c15-14(17)13-7-5-11(6-8-13)3-4-12-2-1-9-16-10-12;/h1-2,5-10H,3-4H2;1H
